### PR TITLE
[Merged by Bors] - chore(RingTheory/Multiplicity): generalize API

### PR DESCRIPTION
**Pull request by tb65536**
This PR generalizes a few basic API lemmas in `RingTheory/Multiplicity.lean` and also adds the missing `multiplicity_one_left`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Multiplicity.lean [hunk 1]
```diff
@@ -305,8 +305,16 @@ theorem emultiplicity_one_left (b : α) : emultiplicity 1 b = ⊤ :=
   emultiplicity_eq_top.2 (FiniteMultiplicity.not_of_one_left _)
 
 @[simp]
-theorem FiniteMultiplicity.one_right (ha : FiniteMultiplicity a 1) : multiplicity a 1 = 0 := by
-  simp [ha.multiplicity_eq_iff, ha.not_dvd_of_one_right]
+theorem multiplicity_one_right : multiplicity a 1 = 0 := by
+  by_cases ha : FiniteMultiplicity a 1
+  · simp [ha.multiplicity_eq_iff, ha.not_dvd_of_one_right]
+  · exact multiplicity_eq_zero_of_not_finiteMultiplicity ha
```
Comment (Whysoserioushah) [inline Mathlib/RingTheory/Multiplicity.lean:311]:
```suggestion
theorem multiplicity_one_right : multiplicity a 1 = 0 := by
  by_cases ha : FiniteMultiplicity a 1
  <;> simp [FiniteMultiplicity.multiplicity_eq_iff, FiniteMultiplicity.not_dvd_of_one_right, *]
```

**Review by Whysoserioushah — APPROVED** [review]
This PR looks good to me, thanks!

maintainer delegate

File: Mathlib/RingTheory/Multiplicity.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/RingTheory/Multiplicity.lean:311]: I think the original is a bit cleaner.

**Comment by b-mehta** [comment]
Looks very nice, thanks!

bors merge
